US06235771B1
To a solution of methyl 7-(4-butoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (500 mg) in 1,2-dimethoxyethane (1Oml) was added 6N hydrochloric acid (5 ml), and the mixture was refluxed for 16 hours. To the mixture were added 1,2-dimethoxyethane (5 ml) and 6N hydrochloric acid (2 ml), and the mixture was refluxed for 4 hours, cooled to room temperature and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried with magnesium sulfate and concentrated under reduced pressure to give crystals, which were collected by filtration. The crystals were washed with diisopropylether to give colorless crystals of 7-(4-butoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (388.9 mg).

reactant | methyl 7-(4-butoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 500 mg | C(CCC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C22H24O5S
reactant | hydrochloric acid | 6N, 5 ml | Cl | ClH
reactant | hydrochloric acid | 6N, 2 ml | Cl | ClH
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
product | 7-(4-butoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 388.9 mg | C(CCC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C21H22O5S
